US06900313B2
(1) Synthesis of the Chiral Ionic Liquid 4-(S)-Isopropyl-2,3-dimethyl-oxazoliniumtetrafluoroborate
15 g (0.12 mol) 4-(S)-isopropyl-2-methyloxazoline are dissolved in 50 ml dichloromethane and cooled to −20° C. 18 g (0.122 mol) Meerwein's reagent are added portionwise. The reaction mixture is stirred for 2 h at room temperature after addition is completed. The solvent is removed under vacuum and the residue is washed with diethyl ether. The yield of 4-(S)-isopropyl-2,3-dimethyl-oxazoliniumtetrafluoroborate is 27 g. The enantiomer excess in the product is >95%.

reactant | 4-(S)-isopropyl-2-methyloxazoline | 0.12 mol, 15 g | C(C)(C)[C@@H]1N=C(OC1)C | C7H13NO
reactant | Meerwein's reagent | 0.122 mol, 18 g | [B-](F)(F)(F)F.CC[O+](CC)CC
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-(S)-Isopropyl-2,3-dimethyl-oxazoliniumtetrafluoroborate | F[B-](F)(F)F.C(C)(C)[C@@H]1[N+](=C(OC1)C)C | InChI=1S/C8H16NO.BF4/c1-6(2)8-5-10-7(3)9(8)4;2-1(3,4)5/h6,8H,5H2,1-4H3;/q+1;-1/t8-;/m1./s1
